US05866572
Using an analogous procedure to that described in Example 18, 6-amino-4-(3-chloro-4-fluoroanilino)quinazoline was reacted with 5-isoxazolecarbonyl chloride to give 4-(3-chloro-4-fluoroanilino)-6-(isoxazole-5-carboxamido)quinazoline hydrochloride salt in 87% yield, m.p.>250° C.;

reactant | 6-amino-4-(3-chloro-4-fluoroanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)F)Cl | C14H10ClFN4
reactant | 5-isoxazolecarbonyl chloride | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | 4-(3-chloro-4-fluoroanilino)-6-(isoxazole-5-carboxamido)quinazoline hydrochloride salt | 87% yield | Cl.ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)NC(=O)C2=CC=NO2)C=CC1F | InChI=1S/C18H11ClFN5O2.ClH/c19-13-8-11(1-3-14(13)20)24-17-12-7-10(2-4-15(12)21-9-22-17)25-18(26)16-5-6-23-27-16;/h1-9H,(H,25,26)(H,21,22,24);1H
